US07579469B2
To a solution of 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one (2.25 g, 5.14 mmol) in DMF (40 mL) was added potassium carbonate (2.13 g, 15.4 mmol) followed by heating to 120° C. in a sealed reaction vessel for 14 hours. The solution was diluted with 300 mL of diethyl ether, washed with one 200 mL portion of saturated aqueous sodium bicarbonate, three 100 mL portions of water, one 100 mL portion of brine, dried over anhydrous sodium sulfite (Na2SO3), and concentrated in vacuo. The crude material was purified by flash column chromatography (5% MeOH/CH2Cl2) to give 1-[4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentyl]-1H-quinolin-4-one as a brown foam (1.07 g, 57%).

reactant | 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 5.14 mmol, 2.25 g | FC=1C=CC(=C(C1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C23H23F4NO3
reactant | potassium carbonate | 15.4 mmol, 2.13 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 1-[4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentyl]-1H-quinolin-4-one | 1.07 g, 57% | FC=1C=CC(=C(C1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)=O)(C)C)OC | C22H22FNO3
